US05889026
A solution of 1-ethoxycarbonyl-4-piperidone (39 ml, 0.26 mol) in diethylether (150 ml) was added dropwise at room temperature to a solution prepared from 4-methyl-benzylbromide (237 g, 1.28 mol) and Mg (31.2 g, 1.28 mol) in diethylether (300 ml). Room temperature was maintained for 45 min with stirring and the mixture was then refluxed for 5 h. It was cooled to 0° C., diluted with diethylether (700 ml) and hydrolyzed with saturated ammoniumhydrochloride solution (200 ml) and water (350 ml). Insoluble material was removed by filtration over Celite", the residue washed twice with diethylether (2×500 ml) and the organic phase was separated. The water layer was extracted with diethylether, the organic phases were pooled and dried with MgSO4 and the solvent evaporated. The residue was chromatographed over silica gel (hexane-ethyl acetate, 2:1) to give 4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-carboxylic acid ethylester (70.5 g, 99%) as a yellowish oil, MS: m/e=278 (M+H+).

reactant | 1-ethoxycarbonyl-4-piperidone | 0.26 mol, 39 ml | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
reactant | 4-methyl-benzylbromide | 1.28 mol, 237 g | CC1=CC=C(CBr)C=C1 | C8H9Br
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
solvent | diethylether | 300 ml | C(C)OCC | C4H10O
solvent | diethylether | 700 ml | C(C)OCC | C4H10O
solvent | ammoniumhydrochloride | 200 ml | Cl.[NH4+]
solvent | water | 350 ml | O | H2O
product | 4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-carboxylic acid ethylester | 70.5 g, 99% | C(C)OC(=O)N1CCC(CC1)(CC1=CC=C(C=C1)C)O | C16H23NO3
